US08859541B2
D5a) N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]benzenesulfonamide
A mixture of tert-butyl-N-[5-(benzenesulfonamido)-6-(2-phenylethynyl)pyridin-2-yl]-carbamate C5a (37 mg, 0.08 mmol) and DCM:TFA (9:1, 4 ml) is stirred at RT for 2 h. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The crude D5a (27 mg) is used in the next step without further purification.

reactant | tert-butyl-N-[5-(benzenesulfonamido)-6-(2-phenylethynyl)pyridin-2-yl]-carbamate | C(C)(C)(C)OC(NC1=NC(=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)C#CC1=CC=CC=C1)=O | C24H23N3O4S
reactant | DCM TFA | 4 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]benzenesulfonamide | NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C19H15N3O2S
